US04196208
Preparation of 2-cyano-2-propyl 4-(hexadecylamino)benzoate
A stirred solution of 20 g. (48.0 m moles) 4-(hexadecylamino)benzoyl chloride hydrochloride in 500 ml. acetone and 50 ml. pyridine is cooled in an ice-water bath, and to this in portions is added 4.3 g. (51 m moles) acetone cyanohydrin. The solution is warmed to room temperature and stirred for an additional two hours. The solvents are evaporated to a yellow gum, which crystallizes to off-white crystals from ethanol.

reactant | 4-(hexadecylamino)benzoyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)Cl)C=C1
reactant | acetone | CC(=O)C | C3H6O
reactant | acetone cyanohydrin | CC(C#N)(O)C | C4H7NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-cyano-2-propyl 4-(hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OC(C)(C)C#N)C=C1 | C27H44N2O2
